US04521419
Trimethyl-sulphoxonium iodide (1.8 g) was reacted with 50% sodium hydride (0.39 g) in dimethyl formamide (30 ml) under stirring at room temperature for 60 minutes, then a solution of 3-benzylidene-1,2,3,10-tetrahydro-10-oxo-cyclopenta[d]pyrido[1,2-a]pyrimidine-7-carboxylic acid methyl ester, m.p. 248°-250° C., (2.49 g) in dimethylformamide (30 ml) was added. The mixture was allowed to react at room temperature for 1 hour then it was diluted with ice water and neutralized with acetic acid. The precipitate was filtered and washed with water to give 2.55 g of 3-benzylidene-7,8-methylene-1,2,3,10-tetrahydro-10-oxo-cyclopenta[d]pyrido[1,2-a]pyrimidine-7-carboxylic acid methyl ester, m.p. 185°-187° C., which was treated with 0.5% KOH in 95% ethanol solution (90 ml) at reflux temperature for 15 minutes. After cooling the reaction mixture was acidified with acetic acid and diluted with water: the precipitate was filtered, washed with water until neutral and crystallized from CH 2 Cl2 /methanol to give 1.8 g of 3-benzylidene-7,8-methylene-1,2,3,10-tetrahydro-10-oxo-cyclopenta[d]pyrido[1,2-a]pyrimidine-7-carboxylic acid, m.p. 230°-240° C. dec., NMR (CF3COOD) δ ppm: 1.19 (t) (1H, 7,8-methylene proton), 2.91 (d d) (1H, 7,8-methylene proton), 3.32 (br s) (4H, cyclopentane protons), 3.51 (d.d.) (1H, C-8 proton), 7.01 (d) (1H, C-5 proton), 7.45 (m) (1H, =CH--), 7.58 (br s) (5H, phenyl protons), 8.26 (d) (1H, C-6 proton).

reactant | Trimethyl-sulphoxonium iodide | 1.8 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 0.39 g | [H-].[Na+]
reactant | 3-benzylidene-1,2,3,10-tetrahydro-10-oxo-cyclopenta[d]pyrido[1,2-a]pyrimidine-7-carboxylic acid methyl ester | COC(=O)C=1C=CC=2N(C(C3=C(N2)C(CC3)=CC3=CC=CC=C3)=O)C1 | C20H16N2O3
solvent | dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-benzylidene-7,8-methylene-1,2,3,10-tetrahydro-10-oxo-cyclopenta[d]pyrido[1,2-a]pyrimidine-7-carboxylic acid methyl ester | 2.55 g | COC(=O)C12C=CC=3N(C(C4=C(N3)C(CC4)=CC4=CC=CC=C4)=O)C1C2 | C21H18N2O3
